US06083989
Synthesis of α-(4-Benzyloxyphenyl)-N-tert-butylnitrone
A mixture of 4-benzyloxybenzaldehyde, N-tert-butylhydroxylamine and catalytic amount of p-toluenesulfonic acid monohydrate in benzene was refluxed under argon atmosphere with a Dean-Stark trap to remove generated water. The mixture was then rotary evaporated to give a residue which was purified by recrystallization. The title compound was obtained in 89.3% yield as a white powder, m.p. 111.0° C. (Rf =0.66 on a silica gel plate using EtOAc as an eluant).

reactant | 4-benzyloxybenzaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | C1=CC=CC=C1 | C6H6
product | α-(4-Benzyloxyphenyl)-N-tert-butylnitrone | 89.3% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=[N+]([O-])C(C)(C)C | C18H21NO2
